US07531553B2
Step A: 4-(4-Benzyloxy-phenoxy)-2-chloro-pyrimidine.
To a stirred RT slurry of NaH (0.5 g of 60% oil dispersion, 12.6 mmol) in 15 mL DMF was added 4-benzyloxyphenol (2.40 g, 12.0 mmol). The mixture was stirred for 10 min before 2,4-dichloropyrimidine (1.79 g, 12.0 mmol) was added. A mild exotherm occurred. The reaction was stirred for 2 h and quenched with saturated aqueous NaHCO3. The reaction was diluted with EtOAc, the layers were separated, and the organic layer was washed twice with 2 N NaOH, once with brine, then dried over Na2SO4. The organic layer was filtered and concentrated in vacuo to yield crude title compound contaminated with minor impurities by H-NMR. MS (MH+)=NA; Calc'd 312.76 for C17H13ClN2O2.

reactant | NaH | 12.6 mmol, 0.5 g | [H-].[Na+]
reactant | 4-benzyloxyphenol | 12.0 mmol, 2.40 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 2,4-dichloropyrimidine | 12.0 mmol, 1.79 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Benzyloxy-phenoxy)-2-chloro-pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(OC2=NC(=NC=C2)Cl)C=C1 | C17H13ClN2O2
